US07544812B2
3-(2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester
To a solution of 3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester (57 mg, 0.15 mmol) and Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester (75 mg, 0.16 mmol) in DMF (1 ml) is added Cs2CO3 (64 mg, 0.19 mmol), and the mixture heated at 60° C. for 14 hours. The mixture is cooled, diluted with water (25 ml) and extracted with ethyl acetate (2×25 ml). The combined organic extracts were washed with brine (30 ml), dried (Na2SO4), and concentrated to an oil. Purification by flash chromatography on a Biotage silica cartridge (gradient elution, 5:1 to 1:1 hexanes:acetone) produced an oil (72 mg, 73%).

reactant | 3-[2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-hydroxy-phenyl]-propionic acid tert-butyl ester | 0.15 mmol, 57 mg | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O)CN1C(C2=CC=CC=C2C1=O)=O)=O | C22H23NO5
reactant | Toluene-4-sulfonic acid 2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethyl ester | 0.16 mmol, 75 mg | CN1C(N(CC1CCOS(=O)(=O)C1=CC=C(C=C1)C)CC1=CC=C(C=C1)C(F)(F)F)=O | C21H23F3N2O4S
reactant | Cs2CO3 | 0.19 mmol, 64 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | 25 ml | O | H2O
product | 3-(2-(1,3-Dioxo-1,3-dihydro-isoindol-2-ylmethyl)-4-{2-[3-methyl-2-oxo-1-(4-trifluoromethyl-benzyl)-imidazolidin-4-yl]-ethoxy}-phenyl)-propionic acid tert-butyl ester | 72 mg, 73% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)OCCC1N(C(N(C1)CC1=CC=C(C=C1)C(F)(F)F)=O)C)CN1C(C2=CC=CC=C2C1=O)=O)=O | C36H38F3N3O6
